US04968708
In 250 ml of n-butanol were heated 10.0 g of 2-aminobenzothiazole and 30 ml of 40% chloroacetaldehyde at 90° C. for 27 hours. After the solvent was removed (evaporated to dryness), the residue was crystallized in isopropanol-acetone to give 6.2 g of imidazo[2,1-b]benzothiazole. Subsequently, 4.0 g of the crystals were added to a mixture of 50 ml of dry dimethylformamide and 3.5 ml of phosphorus oxychloride followed by heating at 60° C. for 3 hours and at 75° C. for 6 hours. After completion of the reaction, the reaction mixture was poured onto ice water. After neutralizing with potassium carbonate, the mixture was extracted with ethyl acetate. The ethyl acetate was removed to give 2.2 g of 3-formylimidazo[2,1-b]benzothiazole. The thus obtained formyl compound, 1.3 g, was added to 20 ml of ethanol and furthermore 0.1 g of sodium borohydride was added to the mixture while stirring under ice cooling. After stirring at the same temperature for 10 minutes, the solvent was removed. The residue was treated with water and filtered to give 1.2 g of the title compound.

reactant | 2-aminobenzothiazole | 10.0 g | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | chloroacetaldehyde | 30 ml | ClCC=O | C2H3ClO
solvent | n-butanol | 250 ml | C(CCC)O | C4H10O
product | imidazo[2,1-b]benzothiazole | 6.2 g | N=1C=CN2C1SC1=C2C=CC=C1 | C9H6N2S
